US04172093
The Grignard reagent is prepared from γ-methoxypropyl bromide (30.6 g; 0.2 moles) and magnesium flakes (4.8 g; 0.2 gram-atoms) in tetrahydrofuran and reacted with spiro(cyclopentane-1,1'-indane)-3'-one (18.6 g, 0.1 moles) in a manner analogous to example 1. The reaction product is shaken out with benzene, the combined benzene solutions are dried with anhydrous magnesium sulphate and the solvent is distilled off in vacuum. 3'-γ-methoxypropyl-spiro(cyclopentane-1,1'-indan)-3'-ol is obtained as a yellowish oil (yield 27.1 g). The crude methoxy compound is refluxed for 62 hours with 48% hydrobromic acid (50 ml) and acetic acid (100 ml). The solution is concentrated in vacuum, ether is added to the oil obtained, and then the solution is washed with water and 2 N sodium hydroxide solution. After drying with magnesium sulphate the solvent is distilled off and a brown oil is obtained, which essentially consists of 3'-γ-bromopropyl-spiro(cyclopentane-1,1'-indene). The compound can be purified by distillation in vacuum and is then obtained as a colourless oil of mp, 148° C./1 mm Hg. nD25 =1.5769.

reactant | γ-methoxypropyl bromide | 0.2 moles, 30.6 g | COCCCBr | C4H9BrO
reactant | magnesium | [Mg] | Mg
reactant | spiro(cyclopentane-1,1'-indane)-3'-one | 0.1 moles, 18.6 g | C12(CC(C3=CC=CC=C13)=O)CCCC2 | C13H14O
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3'-γ-methoxypropyl-spiro(cyclopentane-1,1'-indan)-3'-ol | COCCCC1(CC2(C3=CC=CC=C13)CCCC2)O | C17H24O2
